### PR TITLE
refactor: Add Contractions in terms of representations

### PR DESCRIPTION
**Pull request by jstoobysmith**
Add contraction of Lorentz vectors and covectors in terms of representations. This replaces #1221.

### CODE REVIEW

File: Physlib/Relativity/Tensors/RealTensor/Representation/Contraction.lean [hunk 1]
```diff
@@ -0,0 +1,145 @@
...
+
+@[expose] public section
+
+noncomputable section
+
+open Matrix
+open MatrixGroups
+open Complex
+open TensorProduct
+open minkowskiMatrix
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/Representation/Contraction.lean]:
```suggestion
open Matrix MatrixGroups Complex TensorProduct minkowskiMatrix
```

File: Physlib/Relativity/Tensors/RealTensor/Representation/Contraction.lean [hunk 2]
```diff
@@ -0,0 +1,145 @@
...
+    ext φ ψ
+    simp only [Representation.tprod_apply, AlgebraTensorModule.curry_apply,
+      LinearMap.restrictScalars_self, curry_apply, LinearMap.coe_comp, Function.comp_apply,
+      map_tmul, lift.tmul, LinearMap.mk₂_apply, Representation.isTrivial_def, LinearMap.id_comp]
+    trans (Λ.1 *ᵥ φ) ⬝ᵥ ((LorentzGroup.transpose Λ⁻¹).1 *ᵥ ψ); swap
+    · rw [dotProduct_mulVec, LorentzGroup.transpose_val,
+        vecMul_transpose, mulVec_mulVec, LorentzGroup.coe_inv, inv_mul_of_invertible Λ.1]
+      simp only [one_mulVec]
+      rfl
+    · simp [dotProduct, Vector.rep_apply_eq_mulVec, CoVector.rep_apply_eq_mulVec]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/Representation/Contraction.lean]:
```suggestion
def Vector.contract : (Vector.rep.tprod CoVector.rep).IntertwiningMap
    (Representation.trivial ℝ (LorentzGroup d) ℝ) where
  toLinearMap := by
    refine TensorProduct.lift (LinearMap.mk₂ ℝ (fun φ ψ => ∑ i, φ i * ψ i) ?_ ?_ ?_ ?_)
    · simp [add_mul, Finset.sum_add_distrib]
    · simp [Finset.mul_sum, mul_assoc]
    · simp [mul_add, Finset.sum_add_distrib]
    · intros
      simp_rw [CoVector.apply_smul, smul_eq_mul, Finset.mul_sum]
      exact Finset.sum_congr rfl (fun _ _ ↦ by ring)
  isIntertwining' Λ := by
    ext φ ψ
    trans (Λ.1 *ᵥ φ) ⬝ᵥ ((LorentzGroup.transpose Λ⁻¹).1 *ᵥ ψ)
    · simp [dotProduct, Vector.rep_apply_eq_mulVec, CoVector.rep_apply_eq_mulVec]
    · simp [dotProduct_mulVec, LorentzGroup.transpose_val,
        vecMul_transpose, mulVec_mulVec, LorentzGroup.coe_inv, inv_mul_of_invertible Λ.1]
      rfl
```
golf

File: Physlib/Relativity/Tensors/RealTensor/Representation/Contraction.lean [hunk 3]
```diff
@@ -0,0 +1,145 @@
...
+    ext φ ψ
+    simp only [Representation.tprod_apply, AlgebraTensorModule.curry_apply,
+      LinearMap.restrictScalars_self, curry_apply, LinearMap.coe_comp, Function.comp_apply,
+      map_tmul, lift.tmul, LinearMap.mk₂_apply, Representation.isTrivial_def, LinearMap.id_comp]
+    trans ((LorentzGroup.transpose Λ⁻¹).1 *ᵥ φ) ⬝ᵥ (Λ.1 *ᵥ ψ); swap
+    · rw [dotProduct_mulVec, LorentzGroup.transpose_val,
+        mulVec_transpose, vecMul_vecMul, LorentzGroup.coe_inv, inv_mul_of_invertible Λ.1]
+      simp only [vecMul_one]
+      rfl
+    · simp [dotProduct, Vector.rep_apply_eq_mulVec, CoVector.rep_apply_eq_mulVec]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/Representation/Contraction.lean]:
```suggestion
def CoVector.contract : (CoVector.rep.tprod Vector.rep).IntertwiningMap
    (Representation.trivial ℝ (LorentzGroup d) ℝ) where
  toLinearMap := by
    refine TensorProduct.lift (LinearMap.mk₂ ℝ (fun φ ψ => ∑ i, φ i * ψ i) ?_ ?_ ?_ ?_)
    · simp [add_mul, Finset.sum_add_distrib]
    · simp [Finset.mul_sum, mul_assoc]
    · simp [mul_add, Finset.sum_add_distrib]
    · intros
      simp_rw [Vector.apply_smul, smul_eq_mul, Finset.mul_sum]
      exact Finset.sum_congr rfl (fun _ _ ↦ by ring)
  isIntertwining' Λ := by
    ext φ ψ
    trans ((LorentzGroup.transpose Λ⁻¹).1 *ᵥ φ) ⬝ᵥ (Λ.1 *ᵥ ψ)
    · simp [dotProduct, Vector.rep_apply_eq_mulVec, CoVector.rep_apply_eq_mulVec]
    · simp [dotProduct_mulVec, LorentzGroup.transpose_val,
        mulVec_transpose, vecMul_vecMul, LorentzGroup.coe_inv, inv_mul_of_invertible Λ.1]
      rfl
```
golf

File: Physlib/Relativity/Tensors/RealTensor/Representation/Contraction.lean [hunk 4]
```diff
@@ -0,0 +1,145 @@
...
+lemma Vector.contract_basis_right (φ : Vector d) (μ : Fin 1 ⊕ Fin d) :
+    Vector.contract (φ ⊗ₜ basis μ) = φ μ := by simp [Vector.contract_tmul, basis_apply]
+
+lemma CoVector.contract_basis_right (ψ : CoVector d) (μ : Fin 1 ⊕ Fin d) :
+    CoVector.contract (ψ ⊗ₜ basis μ) = ψ μ := by simp [CoVector.contract_tmul, basis_apply]
+
+lemma Vector.contract_eq_coVector_contract (φ : Vector d) (ψ : CoVector d) :
+    Vector.contract (φ ⊗ₜ ψ) = CoVector.contract (ψ ⊗ₜ φ) := by
+  simp only [Vector.contract_tmul, CoVector.contract_tmul]
+  grind
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/Representation/Contraction.lean]:
```suggestion
  simp_rw [Vector.contract_tmul, CoVector.contract_tmul, mul_comm]
```

File: Physlib/Relativity/Tensors/RealTensor/Representation/Contraction.lean [hunk 5]
```diff
@@ -0,0 +1,145 @@
...
+
+lemma Vector.contract_rep (Λ : LorentzGroup d) (φ : Vector d) (ψ : CoVector d) :
+    Vector.contract ((Vector.rep Λ φ) ⊗ₜ (CoVector.rep Λ ψ)) = Vector.contract (φ ⊗ₜ ψ) := by
+  change Vector.contract ((Vector.rep.tprod CoVector.rep) Λ (φ ⊗ₜ ψ)) = _
+  rw [Vector.contract.isIntertwining]
+  simp
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/Representation/Contraction.lean]:
```suggestion
  convert Vector.contract.isIntertwining _ _ Λ (φ ⊗ₜ ψ)
```

File: Physlib/Relativity/Tensors/RealTensor/Representation/Contraction.lean [hunk 6]
```diff
@@ -0,0 +1,145 @@
...
+
+lemma CoVector.contract_rep (Λ : LorentzGroup d) (φ : CoVector d) (ψ : Vector d) :
+    CoVector.contract ((CoVector.rep Λ φ) ⊗ₜ (Vector.rep Λ ψ)) = CoVector.contract (φ ⊗ₜ ψ) := by
+  change CoVector.contract ((CoVector.rep.tprod Vector.rep) Λ (φ ⊗ₜ ψ)) = _
+  rw [CoVector.contract.isIntertwining]
+  simp
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/Representation/Contraction.lean]:
```suggestion
  convert CoVector.contract.isIntertwining _ _ Λ (φ ⊗ₜ ψ)
```

**Review by morrison-daniel — CHANGES_REQUESTED** [review]
Generally looks good but I got a little cleanup. I like to avoid grind when I can because it can be a performance hit and it obfuscates the actual proof steps if used too liberally. Usually it can be replaced by less expensive tactics. Also, I think it may be helpful to write some of this in terms of more general objects like MulAction and BilinMap which would help deal with some of the linearity problems. Not necessary to add here, but something to consider for future PRs.

**Comment by jstoobysmith** [comment]
The reason I'm using rep here rather then `MulAction` is because it will create a future diamond if `MulAction` is used. Applied your suggestions here. 

-awaiting-author

**Comment by nateabr** [comment]
Just had a look through this, looks like it's ready to go, will tag it.

**Review by morrison-daniel — APPROVED** [review]
